US09446394B2
N-(But-3-en-1-yl)undec-10-enamide (Precursor to 16)
Following the aforementioned procedure, diene was prepared from undec-10-enoic acid and but-3-en-1-amine. The resulting yellow solid was purified by silica gel chromatography (5:1 hexanes: ethyl acetate) to afford the desired product as a white solid. IR (neat): 3296 (br, s), 3078 (m), 2925 (s), 2854 (s), 1640 (s), 1548 (s), 1437 (s), 1359 (m), 1271 (m), 1151 (m), 991 (s), 909 (s), 722 (m), 634 (m); 1H NMR (400 MHz, CDCl3): δ 5.85-5.71 (2H, m), 5.45 (1H, s, br), 5.12-4.91 (4H, m), 3.33 (2H, dt, J=6.8, 6.4 Hz), 2.25 (2H, ddd, J=13.6, 6.8, 0.8 Hz), 2.14 (2H, t, J=7.6 Hz), 2.06-2.00 (2H, m), 1.65-1.57 (2H, m), 1.38-1.24 (10H, m); 13C NMR (100 MHz, CDCl3): δ 173.2, 139.3, 135.5, 117.3, 114.3, 38.4, 37.0, 34.0, 33.9, 29.5, 29.4, 29.4, 29.2, 29.0, 25.9; HRMS (ESI+) [M+H]+ calcd for C15H28N1O1: 238.2171. found: 238.2167. For proof of stereochemistry, see FIG. 3.

reactant | undec-10-enoic acid | C(CCCCCCCCC=C)(=O)O | C11H20O2
reactant | but-3-en-1-amine | C(CC=C)N | C4H9N
product | N-(But-3-en-1-yl)undec-10-enamide | C(CC=C)NC(CCCCCCCCC=C)=O | C15H27NO
